US07223791B2
To a mixture of 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzaldehyde (0.930 g), sodium dihydrogen phosphate (0.490 g), 2-methyl-2-butene (1.95 ml), t-butanol (20 ml), tetrahydrofuran (20 ml) and water (20 ml) was added sodium chlorite (0.570 g) at 0° C., and the mixture was stirred for 3 hrs. To the mixture was added an aqueous sodium sulfite solution, and the mixture was stirred at room temperature for 15 min., and acidified by adding 1 M hydrochloric acid. The crystals were collected by filtration to give 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (1.00 g, yield 78%). Recrystallization from hexane-tetrahydrofuran gave pale-yellow prism crystals. melting point: 239–240° C.

reactant | 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzaldehyde | 0.930 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=NN=C(O1)C1=CC=C(C=O)C=C1 | C15H9N3O4
reactant | sodium dihydrogen phosphate | 0.490 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 1.95 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.570 g | Cl(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | t-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 1.00 g, yield 78% | [N+](=O)([O-])C1=C(C=CC=C1)C1=NN=C(O1)C1=CC=C(C(=O)O)C=C1 | C15H9N3O5
